US05925658
(2a) (4R)-N-[(1S)-1-Methyl-2-hydroxyethyl]-2-oxothiazolidin-4-yl-carboxamide
In 20 ml of dry tetrahydrofuran were dissolved 1.0 g of (4R)-2-oxothiazolidine-4-carboxylic acid and 0.56 g of L-alaninol, 2.8 ml of triethylamine and 1.8 ml of diphenylphosphoryl azide were added thereto with stirring under ice-cooling, and the mixture was stirred at room temperature for 3 hours. Then, the solvent was distilled off under reduced pressure and the obtained residue was purified by silica gel column chromatography employing ethyl acetate as an eluent and further purified by silica gel column chromatography employing dichloromethane-methanol (95:5) as an eluent to obtain 0.92 g of the desired compound as colorless crystals.

reactant | (4R)-2-oxothiazolidine-4-carboxylic acid | 1.0 g | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | L-alaninol | 0.56 g | N[C@@H](C)CO | C3H9NO
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4R)-N-[(1S)-1-Methyl-2-hydroxyethyl]-2-oxothiazolidin-4-yl-carboxamide | 0.92 g | C[C@@H](CO)NC(=O)[C@H]1NC(SC1)=O | C7H12N2O3S
